US04264599
A mixture of 1.35 g of sodium hydride in 70 ml of dimethylformamide and 14.2 g of 1-(1-carbobenzoxy-4-piperidyl)-imidazolidin-2-one is stirred at 80° C. for 4 hours. A solution of 11.7 g of 2-bromoethyl 2-tetrahydro-pyranyl ether in 30 ml of absolute dimethylformamide is then added dropwise in the course of 15 minutes. The mixture is stirred for a further 4 hours at 80° C. and is then evaporated under reduced pressure. The residue is freed from dimethylformamide which is still adhering, by treatment with toluene. The reaction product is dissolved in ethyl acetate, the solution is washed twice with, in each case, 50 ml of water and the ethyl acetate phase is dried over sodium sulphate and evaporated. The residual oil is chromatographed on 1.5 g of silica gel using a mixture of chloroform/methyl alcohol (95:5) as the eluant mixture. In this way, 1-(1-carbobenzoxy-4-piperidyl)-3-[2-(2-tetrahydropyranyloxy)-ethyl]-imidazolidin-2-one is obtained in the form of a slightly yellowish oil.

reactant | sodium hydride | 1.35 g | [H-].[Na+]
reactant | 1-(1-carbobenzoxy-4-piperidyl)-imidazolidin-2-one | 14.2 g | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)N1C(NCC1)=O | C16H21N3O3
reactant | 2-bromoethyl 2-tetrahydro-pyranyl ether | 11.7 g | O1C(CCCC1)OCCBr | C7H13BrO2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(1-carbobenzoxy-4-piperidyl)-3-[2-(2-tetrahydropyranyloxy)-ethyl]-imidazolidin-2-one | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)N1C(N(CC1)CCOC1OCCCC1)=O | C23H33N3O5
